US06326359B1
6-[(2,2-Diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile
A stirred solution of N-(2,2-diphenylethyl)-2-(methylsulfonyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine (preparation 8) (20.1 g, 42.1 mmol) in dry N,N-dimethylformamide (100 ml) was treated with potassium cyanide (5.5 g, 84.6 mmol) and the mixture heated at 120° C. for 24 hr under a nitrogen atmosphere. The mixture was then cooled to room temperature, poured into water (1000 ml) and stirring continued for a further 1 hr. The resultant solid was slowly filtered and washed several times with water, then dissolved in dichloromethane. The solution washed with water, dried with anhydrous magnesium sulfate, filtered and the solvent removed under reduced pressure. The residue was then dissolved in diethyl ether and the solvent removed under reduced pressure (repeated) to afford the title compound as an oil (17 g).

reactant | N-(2,2-diphenylethyl)-2-(methylsulfonyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 42.1 mmol, 20.1 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)S(=O)(=O)C)C1OCCCC1)C1=CC=CC=C1 | C25H27N5O3S
reactant | potassium cyanide | 84.6 mmol, 5.5 g | [C-]#N.[K+]
reactant | water | 1000 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-[(2,2-Diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile | 17 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C#N)C1OCCCC1)C1=CC=CC=C1 | C25H24N6O
